US09302991B2
<Step-1>:2,2,2-trifluoroethyl 2-(4-methylpiperazin-1-yl)-6-(2,2,2-trifluoroethoxy)nicotinate
The title compound is prepared in >99% yield (0.71 g, yellow oil) from 2,2,2-trifluoroethyl 2-chloro-6-(2,2,2-trifluoroethoxy)nicotinate (0.75 g, 2.04 mmol, Step-1 of Amine-37) and 1-methylpiperazine instead of morpholine by the similar manner in Step-2 of Amine-37.

reactant | 2,2,2-trifluoroethyl 2-chloro-6-(2,2,2-trifluoroethoxy)nicotinate | 2.04 mmol, 0.75 g | ClC1=C(C(=O)OCC(F)(F)F)C=CC(=N1)OCC(F)(F)F | C10H6ClF6NO3
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 2,2,2-trifluoroethyl 2-(4-methylpiperazin-1-yl)-6-(2,2,2-trifluoroethoxy)nicotinate | >99% yield | CN1CCN(CC1)C1=C(C(=O)OCC(F)(F)F)C=CC(=N1)OCC(F)(F)F | C15H17F6N3O3
